US05179091
2,3-dihydro-2,7-dioxo-5-phenylcyclopenta[f]benzoxazole
1000 g of polyphosphoric acid are placed in a 1000-ml round-bottomed flask equipped with a mechanical stirrer. 119.36 g (0.45 mol) of 6-cinnamoylbenzoxazolinone, described in Application FR 73/23,281, are dissolved with stirring at a temperature of 120° C., and stirring is continued for 55 min while this temperature is maintained. The reaction mixture is hydrolyzed by vigorous stirring in 5 volumes of ice-cold water, and the product is drained, washed with water until the washes are neutral and dried. The precipitate obtained, finely powdered, is suspended in chloroform and the mixture is brought to the boil for 2 hours.

reactant | 6-cinnamoylbenzoxazolinone | 0.45 mol, 119.36 g | C(C=CC1=CC=CC=C1)(=O)C1=CC2=C(NC(O2)=O)C=C1 | C16H11NO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dihydro-2,7-dioxo-5-phenylcyclopenta[f]benzoxazole | O=C1OC2=C(N1)C=C1C(=C2)C(C=C1C1=CC=CC=C1)=O | C16H9NO3
